US07772244B2
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
(R)-2-(4-(8-Fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid (105 mg, 0.17 mmol) was dissolved in N,N-dimethylformamide (3 mL). N,N-Diisopropylethylamine (100 μL, 0.57 mmol) was added to the mixture followed by o-benzotriazol-1-yl-N,N,N′-tetramethyluronium tetrafluoroborate (65 mg, 0.20 mmol). The reaction was stirred at room temperature for 5 min. 4-Piperidinopiperidine (41 mg, 0.22 mmol) was added to the mixture. The reaction was stirred at room temperature for 2 h. The mixture was diluted with ethyl acetae (25 mL), washed successively with water (3×), and brine. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The title compound was obtained without further purification as white solid in 96% yield. Mass spec.: 773.3 (MH)+.

reactant | (R)-2-(4-(8-Fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid | 0.17 mmol, 105 mg | FC=1C=CC=C2C=C(C(NC12)=O)C1CCN(CC1)C(=O)O[C@@H](C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C32H39FN4O6Si
reactant | N,N-Diisopropylethylamine | 0.57 mmol, 100 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-Piperidinopiperidine | 0.22 mmol, 41 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 96% yield | FC=1C=CC=C2C=C(C(NC12)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C42H57FN6O5Si
